US07659267B2
Methyl 3-(4-oxo-4H-1,3-benzothiazin-2-yl)benzoate
A mixture of methyl 3-cyanobenzoate (967 mg, 6.00 mmol), methyl thiosalicylate (1.51 g, 8.98 mmol), triethylamine (1.5 ml, 11 mmol) and xylene (6 mL) was stirred at 145° C. for 22 hours under a nitrogen flow. After the reaction mixture was allowed to cool, the crystals were taken by filtration and recrystallized from methanol to give the title compound (519 mg, 29%).

reactant | methyl 3-cyanobenzoate | 6.00 mmol, 967 mg | C(#N)C=1C=C(C(=O)OC)C=CC1 | C9H7NO2
reactant | methyl thiosalicylate | 8.98 mmol, 1.51 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 11 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | xylene | 6 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 3-(4-oxo-4H-1,3-benzothiazin-2-yl)benzoate | 519 mg, 29% | O=C1N=C(SC2=C1C=CC=C2)C=2C=C(C(=O)OC)C=CC2 | C16H11NO3S
